US07888364B2
Procedure H was performed to couple 4-(chlorosulfonyl)benzoic acid with ethanolamine to produce 4-(2-hydroxyethylsulfamoyl)benzoic acid which was purified by reverse phase HPLC.

reactant | 4-(chlorosulfonyl)benzoic acid | ClS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C7H5ClO4S
reactant | ethanolamine | C(O)CN | C2H7NO
product | 4-(2-hydroxyethylsulfamoyl)benzoic acid | OCCNS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C9H11NO5S
